US07205409B2
3-Chloro-4-hydroxy-N,N-dimethyl-benzamide
3-Chloro-4-hydroxy-benzoic acid (800 mg, 4.6 mmol), DCC (856 mg, 5.4 mmol), and HOBt (540 mg, 5.4 mmol) were mixed in DMF (10 mL). N,N-dimethyl amine (2M in THF, 4.6 mL) was added to the mixture at 0° C. The reaction was stirred over night and purified by silica gel chromatography (70%–90% EtOAc/Hexane) to provide the title compound (700 mg, 87.5%). MS (DCI) m/z 200, 202 (M+H)+.

reactant | 3-Chloro-4-hydroxy-benzoic acid | 4.6 mmol, 800 mg | ClC=1C=C(C(=O)O)C=CC1O | C7H5ClO3
reactant | DCC | 5.4 mmol, 856 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 5.4 mmol, 540 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,N-dimethyl amine | 2M, 4.6 mL | CNC | C2H7N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-Chloro-4-hydroxy-N,N-dimethyl-benzamide | 700 mg, 87.5% | ClC=1C=C(C(=O)N(C)C)C=CC1O | C9H10ClNO2
